US05576324
2-(2'-Amino-3'-tritylmercaptopropionyl)aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one·HCl
2-(2'-Amino-3'-tritylmercaptopropionyl)aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one (1.05 g, 1.82 mmol) was dissolved in a mixture of methanol (5 ml) and chloroform (5 ml). To the resultant solution, 5% HCl/methanol (1.50 ml, 2.06 mmol) was added dropwise while cooling with ice-water. The mixture was stirred at room temperature for 20 minutes. The solvent was distilled off under reduced pressure. When the residue was recrystallized from methanol-ether, 879 mg of a hydrochloric acid salt of the first component was obtained as pale yellow crystals (78.8%).

reactant | 2-(2'-Amino-3'-tritylmercaptopropionyl)aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 1.82 mmol, 1.05 g | NC1=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)SCCC(=O)NCC2CC=3C(=C4C=CC(NC4=C(C3)C)=O)O2)C=CC=C1 | C35H33N3O3S
reactant | HCl methanol | 2.06 mmol, 1.50 ml | Cl.CO
solvent | methanol | 5 ml | CO | CH4O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2'-Amino-3'-tritylmercaptopropionyl)aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one·HCl | 78.8% | NC1=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)SCCC(=O)NCC2CC=3C(=C4C=CC(NC4=C(C3)C)=O)O2)C=CC=C1.Cl | InChI=1S/C35H33N3O3S.ClH/c1-23-20-24-21-27(41-34(24)28-16-17-32(40)38-33(23)28)22-37-31(39)18-19-42-35(25-10-4-2-5-11-25,26-12-6-3-7-13-26)29-14-8-9-15-30(29)36;/h2-17,20,27H,18-19,21-22,36H2,1H3,(H,37,39)(H,38,40);1H
